US07601716B2
4-{1-[5-Chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}-N-(1-methylpiperidin-4-yl)benzamide
4-{1-[5-chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzoic acid was reacted with 4-amino-1-methylpiperidine as in General Procedure 10 to give the title compound. LCMS: m/z=543.96 (M+H+); retention time=0.51 minutes.

reactant | 4-{1-[5-chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzoic acid | ClC=1C=CC(=C(CN2C3=C(NCC2)N=CC(=C3)C3=CC=C(C(=O)O)C=C3)C1)C(F)(F)F | C22H17ClF3N3O2
reactant | 4-amino-1-methylpiperidine | NC1CCN(CC1)C | C6H14N2
product | 4-{1-[5-Chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}-N-(1-methylpiperidin-4-yl)benzamide | ClC=1C=CC(=C(CN2C3=C(NCC2)N=CC(=C3)C3=CC=C(C(=O)NC2CCN(CC2)C)C=C3)C1)C(F)(F)F | C28H29ClF3N5O
